US06509366B2
To 3 ml of thionyl chloride is added 2.39 g (9.5 mmol) of 1-(2′-chlorobenzyl)-4,5-dimethyl-2-hydroxymethyl-imidazole. The mixture is heated at 50° C. for about 5 min., and the thionyl chloride is evaporated in vacuo. The residue is dissolved in 10 ml of dichloromethane, then evaporated in vacuo. This is repeated twice to give 1-(2′-chlorobenzyl)-4,5-dimethyl-2-chloromethylimidazole as a cream colored foam which is used in next step without further purification.

reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2′-chlorobenzyl)-4,5-dimethyl-2-hydroxymethyl-imidazole | 9.5 mmol, 2.39 g | ClC1=C(CN2C(=NC(=C2C)C)CO)C=CC=C1 | C13H15ClN2O
product | 1-(2′-chlorobenzyl)-4,5-dimethyl-2-chloromethylimidazole | ClC1=C(CN2C(=NC(=C2C)C)CCl)C=CC=C1 | C13H14Cl2N2
